US06448242B1
Preparation of 1,3-bis[4-[5-amino-2-(3,4,5-trimethoxyphenyl)benzoyl]-1-piperazinyl]propane dihydrochloride
Concentrated hydrochloric acid (0.020 ml; 0.24 mmol) was added to a solution of 1,3-bis[4-[5-amino-2-(3,4,5-trimethoxyphenyl)benzoyl]-1-piperazinyl]propane (29 mg; 0.030 mmol) in ethanol (5 ml) and the reaction mixture was concentrated under reduced pressure. After a process of adding ethanol (10 ml) to the residue and concentrating the mixture under reduced pressure was performed twice, the resultant concentrated residue was recrystallized from methylene chloride-diethyl ether to obtain the title compound as a pale yellow crystalline powder.

reactant | hydrochloric acid | 0.24 mmol, 0.020 ml | Cl | ClH
reactant | 1,3-bis[4-[5-amino-2-(3,4,5-trimethoxyphenyl)benzoyl]-1-piperazinyl]propane | 0.030 mmol, 29 mg | NC=1C=CC(=C(C(=O)N2CCN(CC2)CCCN2CCN(CC2)C(C2=C(C=CC(=C2)N)C2=CC(=C(C(=C2)OC)OC)OC)=O)C1)C1=CC(=C(C(=C1)OC)OC)OC | C43H54N6O8
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1,3-bis[4-[5-amino-2-(3,4,5-trimethoxyphenyl)benzoyl]-1-piperazinyl]propane dihydrochloride | Cl.Cl.NC=1C=CC(=C(C(=O)N2CCN(CC2)CCCN2CCN(CC2)C(C2=C(C=CC(=C2)N)C2=CC(=C(C(=C2)OC)OC)OC)=O)C1)C1=CC(=C(C(=C1)OC)OC)OC | InChI=1S/C43H54N6O8.2ClH/c1-52-36-22-28(23-37(53-2)40(36)56-5)32-10-8-30(44)26-34(32)42(50)48-18-14-46(15-19-48)12-7-13-47-16-20-49(21-17-47)43(51)35-27-31(45)9-11-33(35)29-24-38(54-3)41(57-6)39(25-29)55-4;;/h8-11,22-27H,7,12-21,44-45H2,1-6H3;2*1H
